US05658922
20-tert-Butyldimethylsilyloxy-7β-methyl-5α-4-azapregnane
To a solution of 20-tert-butyldimethylsilyloxy-7β-methyl-4-azapregn-5-ene (23.9 gms, 53.6 mmol) in acetic acid (250 mL) was added platinum oxide (1.8 gm). The mixture was stirred overnight under hydrogen (1 atmosphere). The reaction mixture was filtered through a pad of celite filter aid and the filtrate was coevaporated with toluene (3×500 mL) to remove all of the acetic acid. The residue was dissolved in chloroform and filtered again through a pad of celite filter aid to remove residual catalyst. The solvent was removed by rotoevaporation to yield the title compound which was taken directly on to the next step without any further purification.

reactant | 20-tert-butyldimethylsilyloxy-7β-methyl-4-azapregn-5-ene | 53.6 mmol, 23.9 gms | [Si](C)(C)(C(C)(C)C)OC(C)[C@H]1CC[C@H]2[C@@H]3[C@H](C=C4NCCC[C@]4(C)[C@H]3CC[C@]12C)C | C27H49NOSi
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 1.8 gm | [Pt]=O
product | 20-tert-Butyldimethylsilyloxy-7β-methyl-5α-4-azapregnane | [Si](C)(C)(C(C)(C)C)OC(C)[C@H]1CC[C@H]2[C@@H]3[C@H](C[C@H]4NCCC[C@]4(C)[C@H]3CC[C@]12C)C | C27H51NOSi
